US08202866B2
2-(5-Bromo-pyridin-2-yl)-5-chloro-pentanoic acid methyl ester
To a suspension of NaH (60%, 1.8 g, 44.9 mmol) dispersion in a mixture of DMF (60 mL), (5-Bromo-pyridin-2-yl)-acetic acid methyl ester (8.6 g, 37.4 mmol) was added under N2. After stirring and cooling on ice for 1 h, 3-chloro-1-propyl bromide (7.07 g, 44.9 mmol) was added dropwise and stirring was continued for 30 min under 10 degrees Celsius, then water was added and the mixture and extracted with EtOAc. The organic layer was dried (MgSO4) and evaporated in vacuo. The oily residue was purified by chromatography (Petroleum ether:EtOAc=15:1) to give an oil (6.87 g, 60%). MS: calc'd 305 (MH+), exp 305 (MH+). 1H NMR (400 MHz, CDCl3-d) 8.64 (d, 1H, J=2.4 Hz), 7.84 (dd, 1H, J=2.4, 8.4 Hz), 7.28 (s, 1H), 3.90-3.84 (m, 1H), 3.71 (s, 3H), 3.55 (t, 2H, J=6.4 Hz), 2.32-2.20 (m, 1H), 2.14-2.05 (m, 1H), 1.88-1.67 (m, 2H).

reactant | NaH | 44.9 mmol, 1.8 g | [H-].[Na+]
reactant | (5-Bromo-pyridin-2-yl)-acetic acid methyl ester | 37.4 mmol, 8.6 g | COC(CC1=NC=C(C=C1)Br)=O | C8H8BrNO2
reactant | 3-chloro-1-propyl bromide | 44.9 mmol, 7.07 g | ClCCCBr | C3H6BrCl
reactant | water | O | H2O
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 2-(5-Bromo-pyridin-2-yl)-5-chloro-pentanoic acid methyl ester | 6.87 g, 60% | COC(C(CCCCl)C1=NC=C(C=C1)Br)=O | C11H13BrClNO2
